US07109229B2
(f) 3-[7-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (105 mg, 0.55 mmol) and methyl 2-(7-hydroxypropyl-1H-indol-3-yl)oxoacetate (146 mg, 0.56 mmol) in DMF (2.0 mL) at 4° C. under N2, was added a 1.0 M solution of potassium tert-butoxide in THF (1.7 mL, 1.7 mmol) dropwise over 25 min. The reaction was heated to 60° C. and stirred for 12 h. The reaction mixture was then cooled to room temperature and quenched with 1.0 N hydrochloric acid (5.0 mL). The mixture was extracted with EtOAc (2×15 mL), washed with saturated NaHCO3 (30 mL), saturated NaCl (30 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 3:47:50 MeOH/EtOAc/CH2Cl2) gave the title compound (196 mg, 87%) as a red solid, mp 183–185° C. 1H NMR (300 MHz, DMSO-d6) 11.81 (s, 1H), 11.12 (s, 1H), 7.87 (m, 1H), 7.61 (m, 1H), 7.28 (m, 1H), 6.98 (m, 3H), 6.50 (m, 2H), 6.29 (m, 1H), 3.68 (s, 3H), 3.41 (m, 2H), 2.78 (m, 2H), 1.76 (m, 2H). MS (electrospray, m/z) 398 [C24H21N3O3−H]−

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 0.55 mmol, 105 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(7-hydroxypropyl-1H-indol-3-yl)oxoacetate | 0.56 mmol, 146 mg | OCCCC=1C=CC=C2C(=CNC12)C(C(=O)OC)=O | C14H15NO4
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 1.7 mmol, 1.7 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-[7-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 196 mg, 87% | OCCCC=1C=CC=C2C(=CNC12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C24H21N3O3
